US05370861
1-(Benzyloxycarbonyloxy)ethyl 5-(N-acetylamino)-3-(N-acetyl-N-methylamino)-2,4,6-triiodobenzenecarboxylate.
1-Chloroethyl benzyl carbonate (prepared according to Synthesis 1986, 627), (2.36 g, 11.0 mmol) was added at room temperature to a solution of potassium 5-(N-acetylamino)-3-(N-acetyl-N-methylamino)-2,4,6-triiodobenzenecarboxylate (6.66 g, 20 mmol) and sodium iodide (0.15 g, 1 mmol) in dry DMF (50 ml). After stirring at 50° C. for 7 hours and at room temperature for 7 days the solvent was removed at reduced pressure. The residue was dissolved in chloroform (100 ml) and washed four times with a saturated sodium hydrogen carbonate solution and twice with water. After treatment with magnesium sulfate the solution was evaporated to dryness. Yield: 6.8 g. Purity by HPLC: 97% 1H-NMR(DMSO-d6): delta=1.64 (CHCH3); 1.66(N(CH3)COCH3); 2.05 (NCOCH3); 5.23 (CH2); 7.00 (CH); 7(CH); 7.30-7.45(arom.); 10.12 ppm (NH).

reactant | 1-Chloroethyl benzyl carbonate | 11.0 mmol, 2.36 g | C(OC(C)Cl)(OCC1=CC=CC=C1)=O | C10H11ClO3
reactant | potassium 5-(N-acetylamino)-3-(N-acetyl-N-methylamino)-2,4,6-triiodobenzenecarboxylate | 20 mmol, 6.66 g | C(C)(=O)NC=1C(=C(C(=C(C1I)C(=O)[O-])I)N(C)C(C)=O)I.[K+]
reactant | sodium iodide | 1 mmol, 0.15 g | [I-].[Na+]
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | 1-(Benzyloxycarbonyloxy)ethyl 5-(N-acetylamino)-3-(N-acetyl-N-methylamino)-2,4,6-triiodobenzenecarboxylate | C(C)(=O)NC=1C(=C(C(=C(C1I)C(=O)OC(C)OC(=O)OCC1=CC=CC=C1)I)N(C)C(C)=O)I | C22H21I3N2O7
